US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (17.0 g) and N-(4-bromobutyl)phthalimide (15.8 g) were reacted and treated in the same manner as in Preparation Example 150 to give 9.3 g of 4-amino-5-chloro-N-(1-(4-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)butyl)piperidin-4-ylmethyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 17.0 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | N-(4-bromobutyl)phthalimide | 15.8 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
product | 4-amino-5-chloro-N-(1-(4-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)butyl)piperidin-4-ylmethyl)-2-methoxybenzamide | 9.3 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)OC | C26H31ClN4O4
